US04190561
9.6 g of aluminium, 2.8 g of aluminium isopropylate, 0.2 g of mercuric chloride and 130 g of secondary butyl alcohol are introduced into a flask and the mixture is brought to reflux. Once the aluminium has started to react, 390 g of secondary butyl alcohol are slowly added over 45 minutes, maintaining reflux. Heating is then dicontinued and the mixture is left to attain the ambient temperature, stirring is discontinued and a calcium chloride drying tube is fitted. The mixture in then left overnight. On the following day, the mixture is brought to reflux and 332 g of 1,5,5-trimethyl-4-acetyl-cyclohex-1-ene are added in the course of about 2 hours. When the vapour temperature reaches 80°, the methyl ethyl ketone formed starts to distill off; the duration of the distillation is about 6 hours--finally under a pressure of 50 mm of mercury. The residue is taken up in 500 ml of benzene and washed twice with 100 ml of 10% sulphuric acid, twice with 100 ml of water, twice with 100 ml of a sodium bicarbonate solution and then with water until neutral. Distillation of the solvent over a water bath under reduced pressure gives 322 g of crude product, which are fractionated in a 500 ml three-necked flask fitted with a 1 meter adiabatic column having an unoxidisable filling with a particle size of 4×4 mm. 190.8 g of 1,5,5-trimethyl-4-(1-hydroxyethyl)-cyclohex-1-ene (57%) are obtained, having the following physical properties:

reactant | aluminium | 9.6 g | [Al] | Al
reactant | 1,5,5-trimethyl-4-acetyl-cyclohex-1-ene | 332 g | CC1=CCC(C(C1)(C)C)C(C)=O | C11H18O
catalyst | aluminium | 2.8 g | [Al] | Al
solvent | secondary butyl alcohol | 390 g | C(C)(CC)O | C4H10O
solvent | secondary butyl alcohol | 130 g | C(C)(CC)O | C4H10O
product | 1,5,5-trimethyl-4-(1-hydroxyethyl)-cyclohex-1-ene | 190.8 g, 57% | CC1=CCC(C(C1)(C)C)C(C)O | C11H20O
